US04299821
5.0 g (20 mmoles) of Z-Pro-OH are dissolved in 50 ml of DMFA, 2.8 ml (20 mmoles) of triethylamine are added to the solution, and the mixture is cooled to -10° C. The mixture is stirred at the same temperature, 2.8 ml (21.5 mmoles) of isobutyl chloroformate are added dropwise, and after 10 minutes 4.4 ml (22 mmoles) of n-decylamine are introduced dropwise. After the addition the reaction mixture is stirred at 0° C. for 30 minutes and then at room temperature for 2 hours. The resulting suspension is filtered, the filtrate is evaporated, and the residue is dissolved in 100 ml of ethyl acetate. The solution is shaken four times with 50 ml of n hydrochloric acid, each, twice with 50 ml of n sodium hydrocarbonate solution, each, and then with 50 ml of water, dried over anhydrous sodium sulfate and evaporated. The oily residue is crystallized from n-hexane to obtain 5.43 g (70%) of Z-Pro-NH-C10H21 ; m.p.: 78°-80° C., Rf2 =0.75.

reactant | Z-Pro-OH | 20 mmoles, 5.0 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | triethylamine | 20 mmoles, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 21.5 mmoles, 2.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | n-decylamine | 22 mmoles, 4.4 ml | C(CCCCCCCCC)N | C10H23N
solvent | DMFA | 50 ml | CN(C)C=O | C3H7NO
product | Z-Pro-NH-C10H21 | 5.43 g, 70% | N1([C@H](C(=O)NCCCCCCCCCC)CCC1)C(=O)OCC1=CC=CC=C1 | C23H36N2O3
